datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:7][O:15][H:16],-1.246832
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:11]([H:12])([H:13])[H:14],39.748
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21]([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:21]([C:20]([H:28])([H:29])[H:30])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])[H:10])([H:8])[H:9],28.7859
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])[H:4].[H:5][C:10](=[C:11]([H:13])[H:14])[H:12],0.0
[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:7])[H:8]>>[C:0](=[C:1]=[C:2]([H:9])[H:10])([H:7])[H:8].[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12],209.526352
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12])[H:4],62.4253
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22][C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:22](=[C:21]([H:24])[H:25])[C:23]([H:26])([H:27])[H:28])[H:11])([H:9])[H:10],2.55224
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([O:7])([H:8])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[O:7][C:6]([H:8])([H:9])[H:10],238.532
[C:0]([C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])[H:8])([H:5])([H:6])[H:9],164.431
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]([C:9]#[C:10][H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:11])([C:9]#[C:10][H:13])[H:12],102.341
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14])[H:7])([H:5])[H:6],35.564
[C:0](=[C:1]=[C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4]>>[C:0](=[C:1]=[C:2]([C:3]([H:7])[H:8])[H:5])([H:4])[H:6],234.475544
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12](=[S:13])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[C:10](=[C:11][C:12](=[S:13])[H:17])([H:14])[H:15],109.37
[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8]>>[C:0]([C:1](=[O:2])[H:7])([H:3])([H:4])[H:5].[H:6][H:8],0.0
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]1([C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:12])[H:8],58.9526
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])=[C:8]([C:9]#[C:10][H:23])[H:22])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])[C:8]1([C:9]#[C:10][H:23])[H:22])[H:11],56.0656
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[O:8]([O:9][H:11])[H:10]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:10])([H:5])([H:6])[H:7].[O:8][O:9][H:11],41.572224
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:22])([H:23])[H:24])=[C:11]([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:19])([H:20])[H:21])([C:10]([H:22])([H:23])[H:24])[C:11]([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])([H:3])[H:4],10.3763
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[H:20])[H:18])([H:16])[H:17],30.5432
